US05686424
Using the procedure described in example 5, treatment of L-proline-L-isoleucine benzylamide (208 mg, 0.65 mmol), with sodium carbonate (104 mg, 0.98 mmol), and 2-bromo-4'- methoxyacetophenone (195 mg, 0.85 mmol, 1.3 eq) in MeOH (10 mL), provided 248 mg (81%) of L-isoleucine, N-[1-(2-(4-methoxyphenyl)-2-oxoethyl)-L-prolyl] benzylamide as a pale yellow oil.

reactant | L-proline L-isoleucine benzylamide | 0.65 mmol, 208 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | sodium carbonate | 0.98 mmol, 104 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromo-4'- methoxyacetophenone | 0.85 mmol, 195 mg, 1.3 eq | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
solvent | MeOH | 10 mL | CO | CH4O
product | L-isoleucine, N-[1-(2-(4-methoxyphenyl)-2-oxoethyl)-L-prolyl] benzylamide | 248 mg, 81% | COC1=CC=C(C=C1)C(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C27H35N3O4
